US03952104
c. 6,8-Diethyl-5-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylic acid
A mixture of 5 parts of 6,8-diethyl-5-methoxy-4-oxo-4H-1-benzopyran-2-carboxylic acid and 130 parts by volume of 48% aqueous hydrobromic acid was refluxed for seven hours. The reaction mixture was cooled and excess sodium bicarbonate solution was added. The solution was acidified with concentrated hydrochloric acid and then extracted with chloroform. Evaporation of the chloroform gave a residue which on trituration with light petroleum gave 2.3 parts of 6,8-diethyl-5-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylic acid, m.p. 218°-220° C (after crystallisation from ethanol).

reactant | 6,8-diethyl-5-methoxy-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C)C=1C=C(C2=C(C(C=C(O2)C(=O)O)=O)C1OC)CC | C15H16O5
reactant | hydrobromic acid | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 6,8-Diethyl-5-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C)C=1C=C(C2=C(C(C=C(O2)C(=O)O)=O)C1O)CC | C14H14O5
